US08334301B2
ethyl 5-[(3-bromophenyl)thio]-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylate
A mixture of ethyl 1-(2-chlorophenyl)-5-({3-[(2-ethylhexyl)oxy]-3-oxopropyl}thio)-1H-pyrazole-3-carboxylate (1.21 g), sodium ethoxide (362 mg), 1-bromo-3-iodobenzene (775 mg), tris(dibenzylideneacetone)dipalladium (0) (97 mg), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthine (123 mg) and N-ethyldiisopropylamine (0.88 mL) was stirred at 80° C. for 12 hr in ethanol (10 mL) and toluene (15 mL). The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=4:1) to give the title compound as a yellow oil (yield 689 mg, yield 61%).

reactant | ethyl 1-(2-chlorophenyl)-5-({3-[(2-ethylhexyl)oxy]-3-oxopropyl}thio)-1H-pyrazole-3-carboxylate | 1.21 g | ClC1=C(C=CC=C1)N1N=C(C=C1SCCC(=O)OCC(CCCC)CC)C(=O)OCC | C23H31ClN2O4S
reactant | sodium ethoxide | 362 mg | [O-]CC.[Na+]
reactant | 1-bromo-3-iodobenzene | 775 mg | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | N-ethyldiisopropylamine | 0.88 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 97 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 5-[(3-bromophenyl)thio]-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylate | yield 689 mg, yield 61% | BrC=1C=C(C=CC1)SC1=CC(=NN1C1=C(C=CC=C1)Cl)C(=O)OCC | C18H14BrClN2O2S
